US06677368B2
Dimethylamine (2M in THF, 5 mL) was added to a mixture of [3-(1H-indol-4-yl)-phenyl]-acetic acid (1.26 g, 5 mmol), EDC (1.19 g, 1.25 eq.) and HOBt (675 mg, 1 eq.) in THF (10 mL) was stirred at rt for 5 hours. The reaction was concentrated, diluted with ethyl acetate, washed with 10% Na2CO3 (3×), brine, dried and concentrated. The residue was purified on a silica gel column to give 658 mg of 2-[3-(1H-indol-4-yl)-phenyl]-N,N-dimethyl-acetamide as a solid.

reactant | Dimethylamine | 2M, 5 mL | CNC | C2H7N
reactant | [3-(1H-indol-4-yl)-phenyl]-acetic acid | 5 mmol, 1.26 g | N1C=CC2=C(C=CC=C12)C=1C=C(C=CC1)CC(=O)O | C16H13NO2
reactant | EDC | 1.19 g, 1.25 eq.
reactant | HOBt | 675 mg, 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[3-(1H-indol-4-yl)-phenyl]-N,N-dimethyl-acetamide | 658 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C=CC1)CC(=O)N(C)C | C18H18N2O
